US07473786B1
5-Chloro-2-phenyl-benzo[b]furan (entry 5, Table 3):
The general procedure was used to convert phenylacetylene and 4-chloro-2-iodophenol to the title product. Purification by flash chromatography (10% CH2Cl2 in hexanes as the eluent) gave the analytically pure product as a white solid (411 mg, 90% yield). 1H NMR (300 MHz, CDCl3) δ 7.83 (d, J=6.97, 2H), 7.52 (d, J=2.26, 1H), 7.46-7.35 (m, 4H), 7.21 (dd, J=6.59, 1H), 6.93 (s, 1H). 13C NMR (75 MHz, CDCl3) δ 157.36, 153.22, 130.56, 129.93, 128.98, 128.84, 128.46, 125.03, 124.37, 120.40, 112.10, 100.78. Anal. Calcd. for C14H9ClO: C, 73.53; H, 3.97; Cl, 15.50. Found C, 73.31; H, 3.99; Cl, 15.68. m.p.: 155.5-157° C. (lit., 10156° C.).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | 4-chloro-2-iodophenol | ClC1=CC(=C(C=C1)O)I | C6H4ClIO
product | 5-Chloro-2-phenyl-benzo[b]furan | ClC1=CC2=C(OC(=C2)C2=CC=CC=C2)C=C1 | C14H9ClO
